US05025000
A. 4-Methyl-3-oxo-2-(2-pyridinylmethylene)pentanoic acid, ethyl ester
To a solution of ethyl isobutyrylacetate (15.78 g, 99.7 mmol) and pyridine-2-carboxaldehyde (10.7 g, 99.9 mmol) in dry benzene (100 mL) at room temperature under argon was added acetic acid (0.30 mL, 5.2 mmol) and piperidine (0.80 mL, 8.1 mmol). After stirring at room temperature for 1 hour and at reflux for 3 hours, the cooled mixture was washed with water, saturated NaHCO3 and saturated NaCl solutions, dried (Na2SO4) and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate (EtOAc)-hexane (1:9) to give title compound (20.61 g, 83%) as an orange, viscous oil which crystallized on standing to a semi-solid mass, mp 53°-55° C.

reactant | ethyl isobutyrylacetate | 99.7 mmol, 15.78 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | pyridine-2-carboxaldehyde | 99.9 mmol, 10.7 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | acetic acid | 5.2 mmol, 0.30 mL | C(C)(=O)O | C2H4O2
catalyst | piperidine | 8.1 mmol, 0.80 mL | N1CCCCC1 | C5H11N
product | 4-Methyl-3-oxo-2-(2-pyridinylmethylene)pentanoic acid, ethyl ester | 20.61 g, 83% | CC(C(C(C(=O)OCC)=CC1=NC=CC=C1)=O)C | C14H17NO3
